US08580841B2
Preparation of 2-(7-(4-Cyclobutyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid (Compound 21)
To a solution of ethyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (202.8 mg, 0.449 mmol) in tetrahydrofuran (1 mL) was added 0.5 M cyclobutylzinc(II) bromide solution in tetrahydrofuran (8.98 mL, 4.49 mmol) and bis(tri-t-butylphosphine)palladium (46.8 mg, 0.090 mmol) at room temperature. The mixture was heated at 90° C. for 63 h. The mixture was then quenched with 1 N aqueous HCl solution and filtered through Celite®. The filtrate was extracted with ethyl acetate. The organic layer was washed with brine solution to remove excess HCl and concentrated under reduced pressure. The residue was purified by HPLC. The combined fractions were triturated with saturated aqueous sodium bicarbonate solution to basic solution and concentrated under reduced pressure. The residue was dissolved in ethyl acetate and acidified to pH 4. The organic layer was washed with water until the aqueous layer was neutral. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide the title compound as a pink solid (32.3 mg). LCMS m/z=444.6 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.78-1.87 (m, 1H), 1.93-2.02 (m, 1H), 2.03-2.12 (m, 1H), 2.16-2.28 (m, 4H), 2.34 (dd, J=15.98, 9.03 Hz, 1H), 2.60-2.75 (m, 4H), 3.41-3.51 (m, 1H), 3.74-3.84 (m, 1H), 5.12 (s, 2H), 6.70 (dd, J=8.78, 2.46 Hz, 1H), 6.92 (d, J=2.40 Hz, 1H), 7.19 (d, J=8.84 Hz, 1H), 7.66-7.78 (m, 3H), 10.46 (s, 1H), 12.20 (bs, 1H).

reactant | ethyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.449 mmol, 202.8 mg | ClC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C23H21ClF3NO3
reactant | cyclobutylzinc(II) bromide | 0.5 M | [Br-].C1(CCC1)[Zn+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium | 0.090 mmol, 46.8 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | tetrahydrofuran | 4.49 mmol, 8.98 mL | O1CCCC1 | C4H8O
product | 2-(7-(4-Cyclobutyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 32.3 mg | C1(CCC1)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C25H24F3NO3
